Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
ischemic bilateral lower extremities
 
Major Surgical or Invasive Procedure:
___: aortobifemoral bypass 

 
History of Present Illness:
___ with h/o ___ transferred from ___. Patient
ambulates with walker X 30 minutes before onset of b/l thigh
pain. He has chronic ___ pain at rest and sciatica, but per 
niece,
patient has been c/o increasing lower extremity pain X 1 week.
The last two days, he was c/o weakness in numbeness in his ___.
This AM, niece reports that the patient's feet were purple b/l
and hence he was rushed to ___. At ___, patient was stablized,
placed on heparin gtt and transferred to ___.

***After obtaining CT scan, it is evident that patient had b/l
kissing iliac stents placed (patient or niece did not mention
this). We do not know when or where they were placed.

 
Past Medical History:
PMHx: PVD, HTN, ?previous clots in legs, CAD, asthma,
sciatica/LBP

PShx: kissing iliac stents, ? Stents in heart

 
Social History:
___
Family History:
No bleeding/clotting disorder

 
Physical Exam:
Afebrile vital signs stable

General: NAD
HEENT: MMM, no scleral icterus, tongue and trachea midline, no 
palpable lymphadenopathy, no carotid bruits
Cardiac: RRR
Pulmonary: CTAB
Abdomen: Soft, NT/ND
Extremities: Incision clean, dry, intact, no erythema or 
purulence. Pulse exam: R/L: p/p/p/p
 
Pertinent Results:
CTA ___
INDICATION:  ___ male with aortic occlusion status post 
aortobifem 
bypass, now with increasing FiO2 requirement and tachycardia, 
rule out 
pulmonary embolus. 
  
COMPARISON:  CTA abdomen and pelvis from ___. 
  
TECHNIQUE:  MDCT images of the chest were obtained following the 
uneventful 
administration of IV Omnipaque contrast.  Sagittal and coronal 
reformations 
were obtained.  Additionally, 3D reconstructed MIP images were 
obtained. 
  
FINDINGS: 
There is no pulmonary embolus.  Atherosclerotic calcifications 
are noted in 
the aorta and coronary arteries.  No thrombus is identified 
within the aorta.  
There is no pericardial effusion.   
  
There is a small left nonhemorrhagic pleural effusion and 
bibasilar 
atelectasis.  Additionally, there is extensive ground-glass and 
patchy opacity 
involving the bilateral upper lobes and the left lower lobe, 
which is new from 
the ___ chest radiograph. There is no pneumothorax.  
  
Mild degenerative changes are noted in the spine.  No suspicious 
lytic or 
blastic lesion is identified.   
  
Small foci of intraperitoneal free air are noted in the upper 
abdomen, likely 
related to the patient's recent aortobifemoral bypass surgery.  
The visualized 
structures in the upper abdomen are otherwise unremarkable. 
  
IMPRESSION: 
1.  No pulmonary embolus. 
  
2.  Extensive ground-glass and patchy opacity involving 
predominantly the 
upper lobes.  Differential considerations include aspiration, 
pneumonia, and 
pulmonary edema. 
  
3.  Small left nonhemorrhagic pleural effusion with bibasilar 
atelectasis. 

Echocardiography ___
The left atrium and right atrium are normal in cavity size. Left 
ventricular wall thickness, cavity size, and global systolic 
function are normal (LVEF>55%). Due to suboptimal technical 
quality, a focal wall motion abnormality cannot be fully 
excluded. Right ventricular chamber size and free wall motion 
are normal. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis. No 
aortic regurgitation is seen. The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
no mitral valve prolapse. The pulmonary artery systolic pressure 
could not be determined. There is no pericardial effusion. 

IMPRESSION: Suboptimal image quality. Normal biventricular 
cavity sizes with preserved global biventricular systolic 
function. No defininte structural heart disease or pathologic 
flow identified.  
 
Brief Hospital Course:
The patient was admitted to the vascular surgery service at the 
___ on ___ for evaluation and treatment. The patient 
underwent aortobifemoral bypass, end-to-end anastomosis with 14 
x 7-mm Dacron graft pm ___, which went well without 
complication. He was transfered to the CVICU where he continued 
to be monitored closely. He was diuresed and had good pain 
control with a pca. In the evening of ___ he was transfered to 
the VICU. On ___ he had respiratory distress, and was 
transfered back to the ___ where he was placed on bipap and 
diuresed. A ct was done which ruled out pulmonary embolus. It 
was felt that he had a chf exacerbation, respiratory status 
improved over the next ___ and he was transfered back to the 
VICU. He continued to be diuresed until ___ when he was felt to 
be back to baseline. He was deemed stable for discharge home. He 
worked with ___ and ambulated with a walker. He will be d/c'd 
with ___ and follow up in 2 weeks with ___ will follow up 
with his PCP for further evaluation of his chf, and discussion 
of diuresis.   
 
Medications on Admission:
ASA 81', clonidine 0.1', combivent,
lisinopril 40', metoprolol 25", gabapentin 300''', singular 10',
trazadone 50', xanax 2"

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H:PRN pain/fever 
2. Aspirin 81 mg PO DAILY 
3. CloniDINE 0.1 mg PO DAILY 
4. Albuterol-Ipratropium ___ PUFF IH Q6H:PRN sob  
5. Gabapentin 300 mg PO TID 
6. Metoprolol Tartrate 25 mg PO BID 
7. traZODONE 50 mg PO DAILY 
8. Nicotine Patch 14 mg TD DAILY 
RX *nicotine [Nicoderm CQ] 14 mg/24 hour 1 patch every 24 hours 
Disp #*7 Unit Refills:*0
9. Montelukast Sodium 10 mg PO DAILY 
10. Senna 1 TAB PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice a day Disp 
#*30 Tablet Refills:*0
11. ALPRAZolam 2 mg PO BID:PRN anxiety 
home dose  
12. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
aortic occlusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
WHAT TO EXPECT:
1. It is normal to feel tired, this will last for ___ weeks 
•You should get up out of bed every day and gradually increase 
your activity each day 
•You may walk and you may go up and down stairs 
•Increase your activities as you can tolerate- do not do too 
much right away!
2. It is normal to have swelling of the leg you were operated 
on:
•Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
•Avoid prolonged periods of standing or sitting without your 
legs elevated
3. It is normal to have a decreased appetite, your appetite will 
return with time 
•You will probably lose your taste for food and lose some 
weight 
•Eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

MEDICATION:
•Take aspirin as instructed 
•Follow your discharge medication instructions

ACTIVITIES:
•No driving until post-op visit and you are no longer taking 
pain medications
•

•You should get up every day, get dressed and walk
•You should gradually increase your activity
•You may up and down stairs, go outside and/or ride in a car
•Increase your activities as you can tolerate- do not do too 
much right away!
•No heavy lifting, pushing or pulling (greater than 5 pounds) 
until your post op visit 
•You may shower (unless you have stitches or foot incisions) no 
direct spray on incision, let the soapy water run over incision, 
rinse and pat dry
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed

CALL THE OFFICE FOR: ___
•Redness that extends away from your incision
•A sudden increase in pain that is not controlled with pain 
medication
•A sudden change in the ability to move or use your leg or the 
ability to feel your leg
•Temperature greater than 100.5F for 24 hours
•Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions
 
Followup Instructions:
___